US04045446
Preparation of 5-Fluorobenzothiazol-2-yl Isocyanate Dimer
A saturated solution of phosgene in ethyl acetate (200 ml) is charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. 2-Amino-5-fluorobenzothiazole (0.1 mole) is added with stirring. After the addition is completed, the reaction mixture is heated at reflux for a period of about one hour. After this time the mixture is cooled, and the solid product formed is recovered by filtration. The solid is then dried to yield the desired product 5-fluorobenzothiazol-2-yl isocyanate dimer.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2-Amino-5-fluorobenzothiazole | 0.1 mole | NC=1SC2=C(N1)C=C(C=C2)F | C7H5FN2S
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 5-fluorobenzothiazol-2-yl isocyanate | FC=1C=CC2=C(N=C(S2)N=C=O)C1 | C8H3FN2OS
